US09193689B2
To 4-{methyl-[4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzoyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester (21 mg, 0.044 mmol) was added 2:1 CH2Cl2/TFA (1 mL) and the reaction mixture stirred at RT for 1 h. The solvent was removed in vacuo, re-dissolved in MeOH and passed through an SCX-2 cartridge (1 g). The column was washed with MeOH (4× column volumes), the desired product eluted from the cartridge with 0.5M NH3/MeOH (4× column volumes) and concentrated in vacuo. The crude product was purified by reverse phase preparative HPLC-MS to obtain N-methyl-4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-N-piperidin-4-yl-benzamide as a white solid (2.4 mg, 14%).

reactant | 4-{methyl-[4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzoyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 0.044 mmol, 21 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(C1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C)=O)=O)C | C28H33N3O4
reactant | CH2Cl2 TFA | 1 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | N-methyl-4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-N-piperidin-4-yl-benzamide | 2.4 mg, 14% | CN(C(C1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C)=O)=O)C1CCNCC1 | C23H25N3O2
